US06441017B1
Step E: (S)-1-(tert-Butoxycarbonyl)-3-({2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}amino)pyrrolidine
To a solution of (S)-N-[1-(tert-butoxycarbonyl)pyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]thioacetamide, as described above in Step D, 1.29 g, 2.33 mmol) in TBF (65 mL) and MeOH (65 mL), was added NiCl2.6H2O (2.22 g, 9.33 mmol). The mixture was cooled to 0° C. and NaBH4 (2 M in THF, 4.7 mL, 9.33 mmol) was slowly added. After 30 min, the solvent was partially removed in vacuo, and the residual mixture was partitioned between saturated aqueous Na2CO3 containing NH4OH and Et2O. The organic layer was removed and the aqueous layer was further extracted with EtOAc (2×). The combined organic extracts were combined, dried over Na2SO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with a gradient of CH2Cl2—1% to 10% MeOH—0.1% to 1% NH4OH, to yield the above-titled compound.

reactant | (S)-N-[1-(tert-butoxycarbonyl)pyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]thioacetamide | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=S | C33H36N4O2S
reactant | NaBH4 | 9.33 mmol, 2 M, 4.7 mL | [BH4-].[Na+]
solvent | MeOH | 65 mL | CO | CH4O
product | (S)-1-(tert-Butoxycarbonyl)-3-({2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}amino)pyrrolidine | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NCCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H38N4O2
